US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid ((S)-1-carbamoylmethyl-2-methyl-propyl)-amide
The title compound was synthesized in analogy to Example 6 using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 50 mg, 0.21 mmol) and (3S)-3-amino-4-methyl-pentanamide monohydrochloride (CAN 173336-51-1, 39 mg, 0.24 mmol) as starting materials and isolated (55 mg, 74%) as light yellow solid; LC-MS (UV peak area, ESI) 98%, 347.2082 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.21 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | (3S)-3-amino-4-methyl-pentanamide monohydrochloride | 0.24 mmol, 39 mg | Cl.N[C@@H](CC(=O)N)C(C)C
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid ((S)-1-carbamoylmethyl-2-methyl-propyl)-amide | C(N)(=O)C[C@@H](C(C)C)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C18H26N4O3
